US06593355B2
c. (R)-2-tert.butyloxycarbonylamino-2-(4-chloro-3-nitro-phenyl)-propionic acid
72.5 g (0.296 mol) of (R)-2-amino-2-(4-chloro-3-nitro-phenyl)-propionic acid are dissolved in 850 ml dioxane and 200 ml water and after the addition of 108.7 ml (0.78 mol) of triethylamine and 136 g (0.623 mol) of di-tert.butyl dicarbonate stirred for 18 hours at room temperature. After the addition of 800 ml of 1N sodium hydroxide solution the solution is stirred for 30 minutes and then extracted 3× with 500 ml of ether. The aqueous phase is adjusted to pH 7 with 1N hydrochloric acid and then to pH 4 with 5% citric acid. After extracting 4 times with 500 ml of ethyl acetate, the combined organic phases are washed with water, dried, suction filtered through magnesium sulphate and concentrated by evaporation.

reactant | (R)-2-amino-2-(4-chloro-3-nitro-phenyl)-propionic acid | 0.296 mol, 72.5 g | N[C@](C(=O)O)(C)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C9H9ClN2O4
reactant | triethylamine | 0.78 mol, 108.7 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert.butyl dicarbonate | 0.623 mol, 136 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 1N, 800 ml | [OH-].[Na+]
solvent | dioxane | 850 ml | O1CCOCC1 | C4H8O2
solvent | water | 200 ml | O | H2O
product | (R)-2-tert.butyloxycarbonylamino-2-(4-chloro-3-nitro-phenyl)-propionic acid | C(C)(C)(C)OC(=O)N[C@](C(=O)O)(C)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C14H17ClN2O6
